US07005071B2
The alternative route, relying on in solution phase synthesis of an intermediate product starts with addition of a large excess (40 times) of glyoxylic acid to L-cystine in an alkaline borate buffer. The intermediate product was thereafter, after pH manipulations and conductivity adjustment of the reaction mixture, purified with ion exchange chromatography to give N,N,N′,N′-tetrakis (carboxymethyl)-L-cystine.

reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
reactant | L-cystine | C([C@@H](C(=O)O)N)SSC[C@@H](C(=O)O)N | C6H12N2O4S2
reactant | borate | B([O-])([O-])[O-]
product | N,N,N′,N′-tetrakis (carboxymethyl)-L-cystine | C(=O)(O)CN([C@@H](CSSC[C@@H](C(=O)O)N(CC(=O)O)CC(=O)O)C(=O)O)CC(=O)O | C14H20N2O12S2
